* Copyright 2022 Google LLC
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*      http://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* NGSPICE file created from gf180mcu_osu_sc_gp12t3v3__inv_1.ext - technology: gf180mcuD

.subckt gf180mcu_osu_sc_gp12t3v3__inv_1 A Y VDD VSS
X0 Y A VSS VSS nfet_03v3 ad=0.425p pd=2.7u as=0.425p ps=2.7u w=0.85u l=0.3u
X1 Y A VDD VDD pfet_03v3 ad=0.85p pd=4.4u as=0.85p ps=4.4u w=1.7u l=0.3u
.ends

